US08895547B2
3-[2-((S)-3-Hydroxy-1-phenylpropylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-yl]phenol
To detach the protecting group, 150 mg of 3-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol were dissolved in 3 ml of methanol and, after addition of 0.3 ml of concentrated hydrochloric acid, stirred at room temperature for 16 hours. The reaction solution was concentrated by rotary evaporation and coevaporated twice more with 10 ml of toluene, and the residue was purified in a purification laboratory by means of preparative HPLC. The product-containing fractions were combined, the acetonitrile was removed under reduced pressure, and the aqueous residue was basified with saturated aqueous sodium hydrogencarbonate solution. Subsequently, this aqueous residue was extracted with dichloromethane, and the combined organic phases were dried using a phase separator cartridge (Chromabond® PTS) and concentrated by rotary evaporation. The residue was taken up again in a mixture of acetonitrile and water and lyophilized. This gave the product (64.2 mg) with a molecular weight of 404.5 g/mol (C20H24N2O5S); MS (ESI): m/e=405 (M+H+).

reactant | 3-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-phenylpropylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-1,4,3-oxathiazin-5-yl}phenol | 150 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C=1C=C(C=CC1)O)(C)C | C26H38N2O5SSi
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
solvent | methanol | 3 ml | CO | CH4O
product | 3-[2-((S)-3-Hydroxy-1-phenylpropylamino)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-5-yl]phenol | 64.2 mg | OCC[C@@H](C1=CC=CC=C1)NC=1OC(C(S(N1)(=O)=O)C=1C=C(C=CC1)O)(C)C | C20H24N2O5S
